US08580949B2
Synthesis of 5-Dimethylamino-4-methoxycarbonyl-penta-2,4-dienylidene-dimethyl-ammoniumtetrafluoroborate
Pyridiniumtetrafluoroborate (283.7 g, 1.70 mol) was added to a solution of methyl-(2E)-3-(3-dimethylamino)prop-2-enoate in 442.5 ml acetic anhydride/acetic acid (2:1). The resulting suspension was cooled to 0° C. and 3-dimethylaminoacroleine (169.9 ml, 1.70 mol) was added slowly over the course of 3 hrs. under vigorous stirring and cooling with an ice bath, a yellow-brown precipitate formed. After further stirring for 2 hrs. at room temperature the reaction mixture was filtered. The remaining solid was washed with diethylether several times and dried under reduced pressure. Re crystallization from i-propanol/ethanol (2:1) gave 326.7 g (65%) of the pentamethinium salt as yellow crystals.

reactant | Pyridiniumtetrafluoroborate | 1.70 mol, 283.7 g | F[B-](F)(F)F.[NH+]1=CC=CC=C1
reactant | 3-dimethylaminoacroleine | 1.70 mol, 169.9 ml | CN(C=CC=O)C | C5H9NO
reactant | acetic anhydride acetic acid | 442.5 ml | C(C)(=O)OC(C)=O.C(C)(=O)O
product | 5-Dimethylamino-4-methoxycarbonyl-penta-2,4-dienylidene-dimethyl-ammoniumtetrafluoroborate | 326.7 g, 65% | F[B-](F)(F)F.CN(C=C(C=CC=[N+](C)C)C(=O)OC)C | InChI=1S/C11H19N2O2.BF4/c1-12(2)8-6-7-10(9-13(3)4)11(14)15-5;2-1(3,4)5/h6-9H,1-5H3;/q+1;-1
